US05280032
Triethylamine was added to 1-(8-amino-1-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol hydrochloride. The resulting mixture was reacted with methanesulfonyl chloride to obtain oily 2-[2-(N,N-dimethylamino)ethoxy]-1-(8-methylsulfonylamino-1-naphthyl)ethanol hydrochloride (compound No. 291).

reactant | 1-(8-amino-1-naphthyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol hydrochloride | Cl.NC=1C=CC=C2C=CC=C(C12)C(COCCN(C)C)O
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[2-(N,N-dimethylamino)ethoxy]-1-(8-methylsulfonylamino-1-naphthyl)ethanol hydrochloride | Cl.CN(C)CCOCC(O)C1=CC=CC2=CC=CC(=C12)NS(=O)(=O)C | InChI=1S/C17H24N2O4S.ClH/c1-19(2)10-11-23-12-16(20)14-8-4-6-13-7-5-9-15(17(13)14)18-24(3,21)22;/h4-9,16,18,20H,10-12H2,1-3H3;1H
